US06191124B1
A solution of imidazo[2,1-b]benzothiazole-3-methanol (Formula J-2) (2.0 g) in DMF (30 mL) and toluene (200 mL) was treated with MnO2 (4.5 g) and the mixture was azeotropically distilled for 4.5 hours. A second change of MnO2 (2.0 g) and distillation for 1 hour completed the conversion. The suspension was filtered, the combined filtrate and ethyl acetate washes of the cake were concentrated, the residue was diluted with water, and filtered to yield imidazo[2,1-b]benzothiazole-3-carboxaldehyde (Formula J-3) (2.0 g). Crude imidazo[2,1-b]benzothiazole-3-carboxaldehyde (Formula J-3) was used without further purification.

reactant | imidazo[2,1-b]benzothiazole-3-methanol | 2.0 g | N=1C=C(N2C1SC1=C2C=CC=C1)CO | C10H8N2OS
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 4.5 g | O=[Mn]=O
product | imidazo[2,1-b]benzothiazole-3-carboxaldehyde | 2.0 g | N=1C=C(N2C1SC1=C2C=CC=C1)C=O | C10H6N2OS
